US08703922B2
Synthesis of mono-O-(3,7,11-trimethyldodec-2-enoyl)ascorbic acid
0.69 g (3.9 mmol) of ascorbic acid was dissolved in concentrated sulfuric acid (18 mL). After addition of 1.0 g (3.9 mmol) of methyl 3,7,11-trimethyldodec-2-enoate, the mixture was stirred for 24 hours at room temperature. The reaction mixture was poured into iced water, and extracted with ethyl acetate. The extract was washed with water, 1M hydrochloric acid, saturated sodium bicarbonate aqueous solution, and saturated brine, successively, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated, and the resulting residue was purified by silica gel column chromatography (methanol/methylene chloride mixture) to obtain the title compound.

reactant | ascorbic acid | 3.9 mmol, 0.69 g | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | methyl 3,7,11-trimethyldodec-2-enoate | 3.9 mmol, 1.0 g | CC(=CC(=O)OC)CCCC(CCCC(C)C)C | C16H30O2
reactant | water | O | H2O
solvent | sulfuric acid | 18 mL | S(O)(O)(=O)=O | H2O4S
product | mono-O-(3,7,11-trimethyldodec-2-enoyl)ascorbic acid | CC(=CC(=O)OC=1C(=O)O[C@@H](C1O)[C@@H](O)CO)CCCC(CCCC(C)C)C | C21H34O7
